US08557922B2
5.00 g (14.2 mMol) of 4-formylphenyl 4-(4,4,4-trifluorobutoxy)benzoate and 3.00 g (28.4 mMol) of Malonic acid are dissolved in 18 ml (227.1 mMol) of Pyridin. 1.21 g (14.2 mMol) of Piperidin are added to the suspension which is allowed to react at 100° C. under argon for 1.5 h. The yellow solution is then thrown on ice. The solution is carefully acidified to pH=1-2 with a 25% HCl solution and is stirred for 15 min. The product is filtrated off and dried at room temperature under vacuum for 10 h to give 5.2 g of (2E)-3-(4-{[4-(4,4,4-trifluorobutoxy)benzoyl]oxy}phenyl)acrylic acid as white powder.

reactant | 4-formylphenyl 4-(4,4,4-trifluorobutoxy)benzoate | 14.2 mMol, 5.00 g | FC(CCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)C=O)C=C1)(F)F | C18H15F3O4
reactant | Malonic acid | 28.4 mMol, 3.00 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | Pyridin | 227.1 mMol, 18 ml | N1=CC=CC=C1 | C5H5N
reactant | Piperidin | 14.2 mMol, 1.21 g | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
product | (2E)-3-(4-{[4-(4,4,4-trifluorobutoxy)benzoyl]oxy}phenyl)acrylic acid | 5.2 g | FC(CCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)/C=C/C(=O)O)C=C1)(F)F | C20H17F3O5
